US06900227B2
Preparation of 1-(2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl)-piperidine
2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl chloride (3.36 g, 9 mmol) was dissolved in methylene chloride (135 ml). Piperidine (1.33 ml, 13.5 mmol) and ethyldiisopropyl amine (2.3 ml, 13.5 mmol) were added at room temperature. The reaction was stirred at room temperature overnight and washed twice with 1N aqueous HCl solution, twice with 1N aqueous NaOH solution and once with brine. The organic layer was dried over sodium sulfate and filtered. The solvent was evaporated and the residue was purified by column chromatography (4/1 hexane/ethyl acetate eluant). The product was suspended in diethyl ether and filtered to yield a white crystalline solid (1.98 g, 52%). m.p.: 163-164° C.

reactant | 2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl chloride | 9 mmol, 3.36 g | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)(=O)Cl)C2=CC=CC=C2 | C19H13ClO4S
reactant | Piperidine | 13.5 mmol, 1.33 ml | N1CCCCC1 | C5H11N
reactant | ethyldiisopropyl amine | 13.5 mmol, 2.3 ml | C(C)N(C(C)C)C(C)C | C8H19N
solvent | methylene chloride | 135 ml | C(Cl)Cl | CH2Cl2
product | 1-(2,2-diphenyl-benzo[1,3]dioxole-5-sulfonyl)-piperidine | 1.98 g, 52% | C1(=CC=CC=C1)C1(OC2=C(O1)C=CC(=C2)S(=O)(=O)N2CCCCC2)C2=CC=CC=C2 | C24H23NO4S
